US07674802B2
1-{3-[4-(3-Chloro-indazol-2-yl)-phenoxy]-propyl}-piperidine-4-carboxylic acid amide:
1-{3-[4-(3-Chloro-indazol-2-yl)-phenoxy]-propyl}-piperidine-4-carboxylic acid hydrochloride (0.1 g, 0.25 mmol) and ammonia (28% in H2O, 3.0 g, 49 mmol) using the procedure of step 3 of the Example 11 to provide the title compound (0.07 g, 70%). 1H NMR (400 MHz, CDCl3) δ 7.71(d, J=8.8 Hz, 1H), 7.59-7.56 (m, 3H), 7.37-7.33 (m, 1H), 7.17-7.14 (m, 2H), 7.04 (d, J=8.8 Hz, 2H), 5.46 (br, 1H), 5.33 (br, 1H), 4.10 (t, J=6 Hz, 2H), 3.01 (br d, J=12 Hz, 1H), 2.54 (t, J=6 Hz, 2H), 2.10-1.73 (m, 9H), LC/MS (APCI) m/z: 97%.

reactant | 1-{3-[4-(3-Chloro-indazol-2-yl)-phenoxy]-propyl}-piperidine-4-carboxylic acid hydrochloride | 0.25 mmol, 0.1 g | Cl.ClC=1N(N=C2C=CC=CC12)C1=CC=C(OCCCN2CCC(CC2)C(=O)O)C=C1
reactant | ammonia | 49 mmol, 3.0 g | N | H3N
product | 1-{3-[4-(3-Chloro-indazol-2-yl)-phenoxy]-propyl}-piperidine-4-carboxylic acid amide | 0.07 g, 70% | ClC=1N(N=C2C=CC=CC12)C1=CC=C(OCCCN2CCC(CC2)C(=O)N)C=C1 | C22H25ClN4O2
